US20010021718A1
5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N,N-dimethyl-1,2,4-oxadiazole-3-carboxamide
A solution of (3R)-6-cyclohexyl-3-{3-[(dimethylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid (Preparation 11) (60 mg, 0.18 mmol) and N,N-diisopropylethylamine (30 μl, 0.18 mmol) in N-N-dimethylformamide (3 ml) was treated with O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (100 mg, 0.27 mmol) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 1 hour. Further N,N-diisopropylethylamine (90 μl, 0.52 mmol) was then added, followed by hydroxylamine hydrochloride (35 mg, 0.52 mmol) and the mixture was stirred at room temperature for 18 hours. The mixture was partitioned between ethyl acetate and pH 7 aqueous buffer. The layers were separated and the aqueous phase extracted with ethyl acetate (×2). The combined organic layers were washed sequentially with aqueous citric acid solution (5% w/v) and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (90:10 ) gradually changing to dichloromethane:ethyl acetate (50:50) then to dichloromethane: methanol (95:5). The residue was further purified by column chromatography on silica gel eluting with a gradient system of dichloromethane: methanol (99:1) gradually changing to dichloromethane:methanol (95:5) to afford the title compound as an oil which crystallised on standing (35 mg).

reactant | (3R)-6-cyclohexyl-3-{3-[(dimethylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 0.18 mmol, 60 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N(C)C | C17H27N3O4
reactant | N,N-diisopropylethylamine | 0.18 mmol, 30 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.27 mmol, 100 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.52 mmol, 90 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydroxylamine hydrochloride | 0.52 mmol, 35 mg | Cl.NO
product | 5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N,N-dimethyl-1,2,4-oxadiazole-3-carboxamide | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N(C)C | C17H28N4O4
